datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:21]([C:20]([H:23])([H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])[H:12])([H:10])[H:11],16.5268
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([C:9]([S:10][H:16])([H:14])[H:15])[H:13])([H:11])[H:12]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:14])[H:4].[C:7](=[C:8]([C:9]([S:10][H:16])[H:15])[H:13])([H:11])[H:12],25.5224
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]2([H:18])[C:7]1([H:19])[H:20].[C:21](=[C:22]([C:23]([H:27])([H:28])[H:29])[H:26])([H:24])[H:25]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:27])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]2([H:18])[C:7]1([H:19])[H:20].[C:21](=[C:22]([C:23]([H:28])[H:29])[H:26])([H:24])[H:25],24.6856
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7](=[S:8])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([S:2][H:5])[H:12])([H:3])[H:4].[C:6]([C:7]=[S:8])([H:9])([H:10])[H:11],-4.184
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14]([C:13]([H:16])([H:17])[H:18])([C:15]([H:20])([H:21])[H:22])[H:19])[H:7])([H:5])[H:6],26.6102
[N:0]([O:1])([H:2])[H:3].[N:4]=[O:5]>>[H:2][N:4]=[O:5].[N:0](=[O:1])[H:3],54.392
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[O:20][O:21][H:22]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][O:20][O:21][H:22],58.19944
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14][O:15][C:16](=[O:17])[H:18]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])[H:8])([H:4])([H:5])[H:6].[H:7][O:14][O:15][C:16](=[O:17])[H:18],74.01496
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10],24.6856
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:8]([C:9]([H:12])([H:13])[H:14])([H:10])[H:11],7.9496
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([C:13](=[S:14])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:17])[H:6].[C:11](=[C:12][C:13](=[S:14])[H:18])([H:15])[H:16],115.06
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[O:4]1)([H:6])([H:7])[H:8].[O:5][H:14],66.944
[C:0]([c:1]1[c:2]([H:10])[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]1[H:14])([H:7])([H:8])[H:9].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0]([C:1]1=[C:2]([H:10])[C:3]([H:11])[C:4]([H:12])([C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])[C:5]([H:13])=[C:6]1[H:14])([H:7])([H:8])[H:9],38.2927
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13]([C:14](=[C:15]([H:19])[H:20])[H:18])([H:16])[H:17],37.656
[C:1](=[C:2][c:3]1[c:5]([H:6])[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]1[C:15](=[C:16]([H:17])[H:18])[H:19])([H:20])[H:21]>>[C:1](=[C:2]=[c:3]1[c:5]([H:6])[c:7]([H:8])[c:9]([H:10])[c:11]([H:12])[c:13]1=[C:15]=[C:16]([H:17])[H:18])([H:20])[H:21].[H:19],326.506808
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12](=[C:13][C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13](=[C:12]([H:15])[H:16])[C:14]([H:17])([H:18])[H:19],-6.6944
[O:0]=[S:1][H:2].[O:3][H:4]>>[O:0]=[S:1]([H:2])[O:3][H:4],13.26328
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13].[H:11][H:35],28.267104
